US05922871
1-[N-[(1S)-2-Hydroxy-1-phenylethyl]carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene
By the same procedure as described in the example 30, synthesis was carried out starting with 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid and using (S)-(+)-2-amino-2-phenylethanol. Then, the product was recrystallized using ethanol and petroleum ether to give the desired compound.

reactant | 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C(=O)O)C=C1 | C20H24N4O3
reactant | (S)-(+)-2-amino-2-phenylethanol | N[C@H](CO)C1=CC=CC=C1 | C8H11NO
product | 1-[N-[(1S)-2-Hydroxy-1-phenylethyl]carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene | Yield: 77% | OC[C@H](C1=CC=CC=C1)NC(=O)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C | C28H33N5O3
